US07981903B2
Using General Protocol II and starting with 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (1.64 g, 4.82 mmol) and 2-amino-5-(methyloxy)benzamide (1.0 g, 6.00 mmol), 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-(methyloxy)benzamide was isolated as a white solid (1.83 g, 81% Yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.36 (s, 3 H), 3.79 (s, 3 H), 6.61 (s, 1 H), 7.15 (dd, J=8.97, 2.93 Hz, 1 H), 7.31 (d, J=2.93 Hz, 1 H), 7.46 (d, J=8.05 Hz, 2 H), 7.67 (d, J=4.03 Hz, 2 H), 7.96 (ddd, J=8.60, 2.01, 1.83 Hz, 2 H), 8.08 (d, J=8.78 Hz, 1 H), 8.15 (s, 1 H), 11.48 (s, 1 H).

reactant | 2,4-dichloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 4.82 mmol, 1.64 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H9Cl2N3O2S
reactant | 2-amino-5-(methyloxy)benzamide | 6.00 mmol, 1.0 g | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
product | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-5-(methyloxy)benzamide | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=C(C=C2)OC | C21H18ClN5O4S
